US07217560B2
The water layer at the time of the extraction with ethyl acetate in Example 3 was collected in its entirety, and was then adjusted to pH 2 with 10% hydrochloric acid. The water layer was then extracted twice with ethyl acetate (100 mL). After the organic layers were combined and dried, the solvent was distilled off to obtain (S)-benzyloxypropionic acid [0.83 g (48.0%), 96% ee]. An aliquot (0.8 g, 4.4 mmol) of the (S)-benzyloxypropionic acid was dissolved in ethanol (10 mL), followed by the addition of concentrated sulfuric acid (0.01 mL). The thus-prepared mixture was then heated under reflux. Eight hours later, the solvent was distilled off, and the residue was extracted with ethyl acetate (20 mL). The extract was washed with a 5% aqueous solution of sodium hydrogencarbonate (10 mL) and water (10 mL), the organic layer was dried, and the solvent was distilled off to obtain (S)-ethyl benzyloxypropionate. It was dissolved in toluene (10 mL), and under ice-cooled stirring, sodium ethoxide (0.33 g, 1.1 eq) was added, followed by stirring at room temperature for 14 hours. By gas chromatography making use of an optically active column, completion of the racemization was confirmed. Thereafter, the reaction mixture was added dropwise into a 10% aqueous solution of citric acid (10 mL). After the organic layer was washed with water (10 mL) and then dried, the solvent was distilled off to afford the title compound (0.74 g). 1H-NMR spectrum data of the compound were in conformity with those of the compound in Example 1. This racemate can be used as a feed for such asymmetric ester hydrolysis as in Examples 1 to 4.

reactant | (S)-benzyloxypropionic acid | 4.4 mmol, 0.8 g | C(C1=CC=CC=C1)O[C@H](C(=O)O)C | C10H12O3
reactant | sulfuric acid | 0.01 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-ethyl benzyloxypropionate | C(C1=CC=CC=C1)O[C@H](C(=O)OCC)C | C12H16O3
